US07485283B2
a solution 2-[4-(4-hydroxy-butyl)-benzyloxy]-3-methyl-chromen-4-one (101 mg, 0.30 mmol) dissolved in anhydrous dichloromethane (3.0 mL) was added TsCl (68 mg, 0.36 mmol), DMAP (55 mg, 0.45 mmol) and TEA (0.050 mL, 0.36 mmol). The reaction mixture continued stirring at room temperature. After 20 h, the reaction mixture was diluted with water. The aqueous layer was separated and extracted with ethyl acetate (3×). All combined organic layers were dried over Na2SO4, filtered, and concentrated to yield an oil. The crude material was purified using silica gel chromatography (4:1 pentane: ethyl acetate) to yield toluene-4-sulfonic acid 4-[4-(3-methyl-4-oxo-4H-chromen-2-yloxymethyl)-phenyl]-butyl ester (75.2 mg, 0.15 mmol) in moderate yield (51%).1H (CDCl3, 600 MHz): δ 8.21 (1H, dd, J=8.2, 1.5 Hz), 7.77 (2H, d, J=8.3 Hz). 7.60 (1H, m), 7.33 (2H, d, J=8.0 Hz), 7.36 (2H, d, J=8.0 Hz), 7.39 (2H, d, J=8.2 Hz), 7.33 (2H, d, J=8.0 Hz), 7.99 (2H, d, J=7.9 Hz), 5.43 (2H, s), 4.04 (2H, t, J=5.9 Hz), 2.59 (2H, t, J=7.3 Hz), 2.44 (3H, s), 1.99 (3H, s), 1.68 (4H, m);); 13C (CDCl3, 150 MHz): δ 178.2, 161.8, 152.2, 144.2, 141.9, 132.7, 132.2, 131.9, 129.3, 128.3, 127.7, 127.4, 125.6, 127.7, 122.1, 116.1, 70.1, 69.8,34.3, 27.9,26.5, 21.1, 6.7. HRMS calcd for C28H28O6S: 545.1498, found. 515.1493.

reactant | 2-[4-(4-hydroxy-butyl)-benzyloxy]-3-methyl-chromen-4-one | 0.30 mmol, 101 mg | OCCCCC1=CC=C(COC=2OC3=CC=CC=C3C(C2C)=O)C=C1 | C21H22O4
reactant | TsCl | 0.36 mmol, 68 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
catalyst | DMAP | 0.45 mmol, 55 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | toluene-4-sulfonic acid 4-[4-(3-methyl-4-oxo-4H-chromen-2-yloxymethyl)-phenyl]-butyl ester | 0.15 mmol, 75.2 mg | CC1=C(OC2=CC=CC=C2C1=O)OCC1=CC=C(C=C1)CCCCOS(=O)(=O)C1=CC=C(C=C1)C | C28H28O6S
